US07868200B2
p-Menthane-3-carboxylic acid
Magnesium (15.6 g, 50 mesh), 2-methyl-tetrahydrofuran (103 g), para cymene (50 g), iodine (0.1 g), and ethyl magnesium chloride (4 cc) were added under nitrogen to a 1-liter flask equipped with agitation, addition funnel, off-set adaptor for thermometer, gas addition tube, and condenser. The mixture was stirred for 30 min. at 75° C., and then 1,2,-dibromo ethane (4 cc) was slowly added. p-Menth-3-yl chloride (134 g dissolved in para cymene) was then added at a rate of 33 g/hr (0.21 mole/hr). After approximately ½ of the p-menth-3-yl chloride was added, carbon dioxide was concurrently added by bubbling the carbon dioxide into the mixture at a rate of 7.8 g/hr (0.18 mole/hr), and at a temperature of 80° C. After all of the p-menth-3-yl chloride was added, the temperature was raised to 90° C. to complete carbonation. After carbonation was complete, the resultant mixture was hydrolyzed with aqueous hydrochloric acid having a concentration of 15%. VPC analysis showed a yield of 78.3% by weight of p-menthane-3-carboxylic acid.

reactant | Magnesium | 15.6 g | [Mg] | Mg
reactant | 2-methyl-tetrahydrofuran | 103 g | CC1OCCC1 | C5H10O
reactant | para cymene | 50 g | C1(=CC=C(C=C1)C)C(C)C | C10H14
reactant | iodine | 0.1 g | II | I2
reactant | ethyl magnesium chloride | 4 cc | C(C)[Mg]Cl
reactant | 1,2,-dibromo ethane | 4 cc | BrCCBr | C2H4Br2
reactant | p-Menth-3-yl chloride | 134 g | C1(CC(C(CC1)C(C)C)Cl)C | C10H19Cl
reactant | carbon dioxide | C(=O)=O | CO2
product | p-Menthane-3-carboxylic acid | C1(CC(C(CC1)C(C)C)C(=O)O)C | C11H20O2
